US05912247
A mixture of 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1R,4S)-(4-hydroxycyclopent-2-en-1-yl)oxy]quinazoline (1.00 g), a solution of osmium tetroxide in t-butanol (osmium tetroxide 252 mg/t-butanol 18.1 g) (409 mg) and 4-methylmorpholine N-oxide (281 mg) in water (2 ml)--acetone (20 ml) is stirred at room temperature for 8 hours. Acetone is distilled off from the reaction mixture under reduced pressure, and to the resultant is added ethyl acetate, and the mixture is washed with 10% aqueous sodium sulfite solution and water. The ethyl acetate solution is dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure, and the residue is purified by medium pressure liquid column chromatography (eluent, chloroform:methanol=50:1, 10:1, v/v) to give 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1R,2R,3R,4S)-(2,3,4-trihydroxycyclopentan-1-yl)oxy]quinazoline (954 mg) as foam.

reactant | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1R,4S)-(4-hydroxycyclopent-2-en-1-yl)oxy]quinazoline | 1.00 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@H]1C=C[C@H](C1)O | C25H26N4O4
reactant | 4-methylmorpholine N-oxide | 281 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | t-butanol | 252 mg | C(C)(C)(C)O | C4H10O
solvent | water | 2 ml | O | H2O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2-[4-(benzyloxycarbonyl)piperazin-1-yl]-4-[(1R,2R,3R,4S)-(2,3,4-trihydroxycyclopentan-1-yl)oxy]quinazoline | 954 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)O[C@H]1[C@@H]([C@@H]([C@H](C1)O)O)O | C25H28N4O6
